### PR TITLE
S polynomial ne zero

### PR DESCRIPTION
**Pull request by tsuki8**
@Hagb  Maybe my proof should be modify

### CODE REVIEW

File: Groebner/Basic.lean [hunk 1]
```diff
@@ -319,9 +319,43 @@ lemma sPolynomial_decomposition (f: MvPolynomial σ k) (d: σ →₀ ℕ)
...
 
+@[simp]
+theorem degree_eq_zero_iff{f : MvPolynomial σ R} :
+    m.degree f = 0 ↔ f = C (m.leadingCoeff f) := by
+    constructor
+    · intro h
+      sorry
+    · intro h
+      rw [h]
+      simp [leadingCoeff]
```
Comment (Hagb) [inline Groebner/Basic.lean]:
```suggestion
  constructor
  · intro h
    sorry
  · intro h
    rw [h]
    simp [leadingCoeff]
```

File: Groebner/Basic.lean [hunk 2]
```diff
@@ -319,9 +319,43 @@ lemma sPolynomial_decomposition (f: MvPolynomial σ k) (d: σ →₀ ℕ)
...
+      exact (AddEquiv.map_eq_zero_iff m.toSyn).mp h4
+    simp [h0', h4'] at h
+    have h5: f = C (m.leadingCoeff f) := by
+      exact degree_eq_zero_iff.mp h0'
+    have h5': g = C (m.leadingCoeff g) := by
+      exact degree_eq_zero_iff.mp h4'
+    have: C (m.leadingCoeff g) * f - C (m.leadingCoeff f) * g = 0 := by
+      simp [←h5, ←h5']
+      ring
+    ring_nf
```
Comment (Hagb) [inline Groebner/Basic.lean]:
```suggestion
  simp [MonomialOrder.sPolynomial] at h
  by_contra h_neg
  push_neg at h_neg
  rcases h_neg with ⟨h₁, h₂⟩
  have h2: m.toSyn (m.degree f) ≥  0 := by
    exact zero_le m (m.toSyn (m.degree f))
  have h0: m.toSyn (m.degree f) = 0 := by
    exact le_antisymm h₁ h2
  have h0': m.degree f = 0 := by
    exact (AddEquiv.map_eq_zero_iff m.toSyn).mp h0
  have h3:  m.toSyn (m.degree g) ≥  0 := by
    exact zero_le m (m.toSyn (m.degree g))
  have h4: m.toSyn (m.degree g) = 0 := by
    exact le_antisymm h₂ h3
  have h4': m.degree g = 0 := by
    exact (AddEquiv.map_eq_zero_iff m.toSyn).mp h4
  simp [h0', h4'] at h
  have h5: f = C (m.leadingCoeff f) := by
    exact degree_eq_zero_iff.mp h0'
  have h5': g = C (m.leadingCoeff g) := by
    exact degree_eq_zero_iff.mp h4'
  have: C (m.leadingCoeff g) * f - C (m.leadingCoeff f) * g = 0 := by
    simp [←h5, ←h5']
    ring
  ring_nf
```

**Review by Hagb — CHANGES_REQUESTED** [review]
Proof should be indented by _2_ spaces. Also refer to https://leanprover-community.github.io/contribute/style.html#structuring-definitions-and-theorems.
